US05202335
To a suspension of 2-(4-methylbenzylidene)succinic acid (4.5 g) in ethanol (50 ml) was added 10% Pd-C (100 mg) and the mixture was hydrogenated at room temperature and atmospheric pressure for 40 hours. After the catalyst was filtered off, the solvent was evaporated under reduced pressure. The resulting residue was recrystallized from hexane-ethyl acetate (1:1) to give 4.3 g of 2-(4-methylbenzyl)succinic acid.

reactant | 2-(4-methylbenzylidene)succinic acid | 4.5 g | CC1=CC=C(C=C(C(=O)O)CC(=O)O)C=C1 | C12H12O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | 2-(4-methylbenzyl)succinic acid | 4.3 g | CC1=CC=C(CC(C(=O)O)CC(=O)O)C=C1 | C12H14O4
